US05409943
(b) N-[3-(2-Chloro-6-fluorobenzyloxy)pyrid-2-yl]-N'-(4-fluorophenyl)guanidine
A mixture of yellow men:uric oxide (0.65g, 0.003 mol), N-[3-(2-chloro-6-fluorobenzyloxy)pyrid-2-yl]-N'-4-fluorophenylthiourea (1 .0g, 0.0025 mol) and methanolic ammonia solution (30 ml) was stirred for 3 days at room temperature. The solvent was removed in vacuo and the black residue was boiled with chloroform and filtered hot. Evaporation of the solvent followed by recrystallisation from ethanol gave the desired product. Yield 0.38 g, (40%), m.p. 152°-154 ° C.

reactant | N-[3-(2-chloro-6-fluorobenzyloxy)pyrid-2-yl]-N'-4-fluorophenylthiourea | 0.0025 mol | ClC1=C(COC=2C(=NC=CC2)NC(=S)NC2=CC=C(C=C2)F)C(=CC=C1)F | C19H14ClF2N3OS
reactant | ammonia | 30 ml | N | H3N
product | N-[3-(2-Chloro-6-fluorobenzyloxy)pyrid-2-yl]-N'-(4-fluorophenyl)guanidine | ClC1=C(COC=2C(=NC=CC2)NC(=N)NC2=CC=C(C=C2)F)C(=CC=C1)F | C19H15ClF2N4O
